US04018802
Step D. Preparation of 8-methylsulfonyl-12(S)-hydroxy-10-heptadecynoic acid
The synthesis of this compound is carried out by the method of Example 3, Step E, except that methyl 8-methylsulfonyl-12-acetoxyheptadecanoate is replaced by an equivalent quantity of methyl 8-methylsulfonyl-12(S)-acetoxy-10-heptadecynoate.

reactant | methyl 8-methylsulfonyl-12-acetoxyheptadecanoate | CS(=O)(=O)C(CCCCCCC(=O)OC)CCCC(CCCCC)OC(C)=O | C21H40O6S
reactant | methyl 8-methylsulfonyl-12(S)-acetoxy-10-heptadecynoate | CS(=O)(=O)C(CCCCCCC(=O)OC)CC#C[C@H](CCCCC)OC(C)=O | C21H36O6S
product | 8-methylsulfonyl-12(S)-hydroxy-10-heptadecynoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CC#C[C@H](CCCCC)O | C18H32O5S
